US06784174B1
4-[2-Methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]-5-methylthieno[2,3-d]pyrimidine
N-(3-amino-4-methylphenyl)-2-morpholinopyridine-4-carboxamide (0.056 g), 4-chloro-5-methylthieno[2,3-d]pyrimidine (Maybridge Chemical Company, Trevillet, Tintagel, Cornwall, PL34 0HW, GB; 0.037 g) and isopropanol (2 ml) and the reaction mixture was stirred and heated to 88° C. for 18 hours. The reaction mixture was cooled to ambient temperature and the precipitate was isolated and washed in turn with isohexane and diethyl ether. There was thus obtained the title compound (0.021 g); Mass: M+H+ 461.

reactant | N-(3-amino-4-methylphenyl)-2-morpholinopyridine-4-carboxamide | 0.056 g | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.037 g | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 4-[2-Methyl-5-(2-morpholinopyridine-4-carboxamido)anilino]-5-methylthieno[2,3-d]pyrimidine | 0.021 g | CC1=C(NC=2C3=C(N=CN2)SC=C3C)C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C24H24N6O2S
